US04703046
A solution of 7-amino-3-(1,3,4-thiadiazol-2-ylthiomethyl)-3-cephem-4-carboxylic acid (4.3 g.) and trimethylsilylacetamide (17.1 g.) in dry ethyl acetate (130 ml.) and a solution of dimethylformamide (0.92 ml.), phosphoryl chloride (1.09 ml.) and 2-(2-formamido-5-chlorothiazol-4-yl)-2-methoxyiminoacetic acid (syn isomer, 2.6 g.) in dry ethyl acetate (27 ml.) were treated in a similar manner to that of Example 1-(1) to give 7-[2-(2-formamido-5-chlorothiazol-4-yl)-2-methoxyiminoacetamido]-3-(1,3,4-thiadiazol-2-ylthiomethyl)-3-cephem-4-carboxylic acid (syn isomer, 5.6 g.).

reactant | 7-amino-3-(1,3,4-thiadiazol-2-ylthiomethyl)-3-cephem-4-carboxylic acid | 4.3 g | NC1[C@@H]2N(C(=C(CS2)CSC=2SC=NN2)C(=O)O)C1=O | C10H10N4O3S3
reactant | trimethylsilylacetamide | 17.1 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
reactant | phosphoryl chloride | 1.09 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-(2-formamido-5-chlorothiazol-4-yl)-2-methoxyiminoacetic acid | 2.6 g | C(=O)NC=1SC(=C(N1)C(C(=O)O)=NOC)Cl | C7H6ClN3O4S
solvent | ethyl acetate | 130 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 27 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 0.92 ml | CN(C=O)C | C3H7NO
product | 7-[2-(2-formamido-5-chlorothiazol-4-yl)-2-methoxyiminoacetamido]-3-(1,3,4-thiadiazol-2-ylthiomethyl)-3-cephem-4-carboxylic acid | 5.6 g | C(=O)NC=1SC(=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC=2SC=NN2)C(=O)O)C1=O)=NOC)Cl | C17H14ClN7O6S4
